US08735384B2
A solution of (2-(2-(4-methoxybenzylamino)-3-morpholinoquinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone (30 mg, 0.056 mmol) and TFA (2 mL) was heated at 90° C. After 3 h, the reaction mixture was concentrated in vacuo, diluted with DCM and concentrated again. The crude product was dissolved in MeOH and filtered through an SCX (1 g) column then eluted with a 2M ammonia methanol solution to release the product. This filtrate was concentrated in vacuo to give a light orange solid that was washed with ether and decanted to remove most of the remaining starting material. The remaining solid was dissolved in DCM and purified by preparative thin layer chromatography (5×20 cm, 1000 um, 10% MeOH:DCM) to give (2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone as a white solid. MS (ESI, pos. ion) m/z: 417 (M+1).

reactant | (2-(2-(4-methoxybenzylamino)-3-morpholinoquinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone | 0.056 mmol, 30 mg | COC1=CC=C(CNC2=NC3=CC=C(C=C3C=C2N2CCOCC2)C2=C(C=CC=C2C)C(=O)N2CCCC2)C=C1 | C33H36N4O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C=CC=C1C)C(=O)N1CCCC1 | C25H28N4O2
